US06541505B1
5-(dimethylamino)-pentanenitrile.
A mixture of dimethylamine (4 mL, 40% in water) and 5-bromo-pentanenitrile (2.3 mL, 20 mmol) is stirred for 24 h. The resulting reaction mixture is diluted with sodium hydroxide solution (10 mL, 5M) and extracted with ether. The ether extract is dried over K2CO3 and concentrated under reduced pressure to give an oil (1.5 g) which is used without further purification.

reactant | dimethylamine | 4 mL | CNC | C2H7N
reactant | 5-bromo-pentanenitrile | 20 mmol, 2.3 mL | BrCCCCC#N | C5H8BrN
solvent | sodium hydroxide | 5M, 10 mL | [OH-].[Na+]
product | 5-(dimethylamino)-pentanenitrile | 1.5 g | CN(CCCCC#N)C | C7H14N2
